US07001897B2
(2) (1R,5S,6S)-2-(1-{4-[N-(2-aminoethyl)-N-methyl-carbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid
p-Nitrobenzyl (1R,5S,6S)-2-[1-(4-{N-methyl-N-[2-(p-nitrobenzyloxycarbonylamino)ethyl]carbamoyl}-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate (267.5 mg, 0.33 mmol) (obtained as described in Example 63(1)) in a mixture of tetrahydrofuran (14 ml) and distilled water (6.7 ml) was subjected to catalytic hydrogenation in the presence of 20% palladium hydroxide on charcoal (300 mg) at 30° C. in a water bath for 1.5 hours. After checking the completion of the reaction, the reaction mixture was filtered and to the filtrate were added ethyl acetate-tetrahydrofuran (1:1) and distilled water. The mixture was shaken in a separatory funnel. The aqueous layer was separated, washed with the above-mentioned mixed solvent, and concentrated under reduced pressure. The residue was purified by chromatography on a Cosmosil column (eluant: distilled water→5% acetonitrile in distilled water→10% acetonitrile in distilled water→15% acetonitrile in distilled water),and the eluate was lyophilized to afford the desired compound (1R,5S,6S)-2-(1-{4-[N-(2-aminoethyl)-N-methyl-carbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid (81.6 mg, yield 51%) as a white solid.

reactant | p-Nitrobenzyl (1R,5S,6S)-2-[1-(4-{N-methyl-N-[2-(p-nitrobenzyloxycarbonylamino)ethyl]carbamoyl}-1,3-thiazol-2-yl)azetidin-3-yl]thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylate | 0.33 mmol, 267.5 mg | CN(C(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)CCNC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-] | C35H37N7O11S2
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | (1R,5S,6S)-2-(1-{4-[N-(2-aminoethyl)-N-methyl-carbamoyl]-1,3-thiazol-2-yl}azetidin-3-yl)thio-6-[(R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid | 81.6 mg, yield 51% | NCCN(C(=O)C=1N=C(SC1)N1CC(C1)SC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C)C | C20H27N5O5S2
